US07709473B2
A solution of 215 mg of 2-(2-tert-butyl-8-chloro-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-2-methyl-propionic acid methyl ester and 388 mg of isopropylamine in THF (5.0 mL) was heated at reflux for 2 h. The reaction mixture was cooled to ambient temperature, diluted with water and extracted with EtOAc. The organic extract was dried over sodium sulfate, filtered, and concentrated to provide 2-(2-tert-butyl-8-isopropylamino-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-2-methyl-propionic acid methyl ester as a light yellow solid. MS (M+H+)=350.4.

reactant | 2-(2-tert-butyl-8-chloro-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-2-methyl-propionic acid methyl ester | 215 mg | COC(C(C)(C)C=1N=C(C=2N(C1)C(N(N2)C(C)(C)C)=O)Cl)=O | C14H19ClN4O3
reactant | isopropylamine | 388 mg | C(C)(C)N | C3H9N
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-tert-butyl-8-isopropylamino-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-2-methyl-propionic acid methyl ester | COC(C(C)(C)C=1N=C(C=2N(C1)C(N(N2)C(C)(C)C)=O)NC(C)C)=O | C17H27N5O3
